US03985804
Preparation of 3'-benzyloxy-2-methylbenzanilide
A 9.1 g (0.04 mol) portion of 3'-hydroxy-2-methylbenzanilide was dissolved in a solution of 2.3 g (0.041 mol) of potassium hydroxide in 50 ml of ethanol, and 5.1 g (0.04 mol) of benzylchloride was added dropwise to the above solution with stirring at room temperature. After the addition, the reaction mixture was warmed and refluxed for 3 hours. The reaction mixture was poured into 200 ml of water and the precipitated product was filtered and washed with water and dried. The product was recrystallized from 90% methanol to obtain 7.5 g (60.5%) of white needles having a melting point of 114°-115° C.

reactant | 3'-hydroxy-2-methylbenzanilide | OC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C14H13NO2
reactant | potassium hydroxide | 0.041 mol, 2.3 g | [OH-].[K+]
reactant | benzylchloride | 0.04 mol, 5.1 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 200 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3'-benzyloxy-2-methylbenzanilide | 7.5 g, 60.5% | C(C1=CC=CC=C1)OC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C21H19NO2
